US07727979B2
3,3-dimethyl-4-phenyl-cyclohexanone (Precursor Stage of Example C-70)
Lithium chloride (0.6 mmol) and copper iodide (0.3 mmol) are introduced first under argon in dry tetrahydrofuran (18 ml). At 0° C. 3-methyl-4-phenylcyclohex-2-enone (3 mmol) is added and stirring continues for another 10 min at this temperature. Then a solution of methylmagnesium bromide (3.6 mmol) is slowly added dropwise and the reaction mixture is maintained at 0° C. for 3 hours accompanied by stirring. The reaction is stopped by adding saturated aqueous ammonium chloride solution. The mixture is extracted with diethyl ether. The title compound is obtained from the combined organic phases after drying over sodium sulphate and evaporating-off of the solvent in a vacuum (J. Organom. Chem. 1995, 502, C5-C7): tR 2.36 min (LC-2); ESI-MS (+): m/z 203.35 [M+H]+.

reactant | Lithium chloride | 0.6 mmol | [Cl-].[Li+]
reactant | 3-methyl-4-phenylcyclohex-2-enone | 3 mmol | CC1=CC(CCC1C1=CC=CC=C1)=O | C13H14O
reactant | methylmagnesium bromide | 3.6 mmol | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
catalyst | copper iodide | 0.3 mmol | [Cu](I)I
product | 3,3-dimethyl-4-phenyl-cyclohexanone | CC1(CC(CCC1C1=CC=CC=C1)=O)C | C14H18O
